US07612226B2
(3S,5S)-3-Methyl-3-[(2S)-2-methylbutyl]-5-phenylmorpholin-2-one
The title compound was prepared from (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one (1 g, 5.28 mmol, see WO-A-02/051983) and (2S)-1-iodo-2-methylbutane according to the procedure outlined in Preparation 1. The total amount of compound synthesised was 0.586 g.

reactant | (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | CC=1C(OC[C@@H](N1)C1=CC=CC=C1)=O | C11H11NO2
reactant | (2S)-1-iodo-2-methylbutane | IC[C@H](CC)C | C5H11I
product | (3S,5S)-3-Methyl-3-[(2S)-2-methylbutyl]-5-phenylmorpholin-2-one | C[C@]1(N[C@H](COC1=O)C1=CC=CC=C1)C[C@H](CC)C | C16H23NO2
